US09169254B2
LiOH.H2O (16.6 mg, 0.396 mmol) was added to a solution of 1-[(E)-2-(2,6-dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-4-[9-(3-methyl-oxetan-3-yl)-nonanoylamino]-piperidine-4-carboxylic amide (96 mg, 0.098 mmol) in ethanol (1.0 mL), and the mixture was stirred at 50° C. for two hours. A 50% saturated aqueous ammonium chloride solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was then dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate) to give 8-[(E)-2-(2,6-Dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-2-[8-(3-methyl-oxetan-3-yl)-octyl]-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (54.8 mg, 100%).

reactant | LiOH.H2O | 0.396 mmol, 16.6 mg | O[Li].O
reactant | 1-[(E)-2-(2,6-dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-4-[9-(3-methyl-oxetan-3-yl)-nonanoylamino]-piperidine-4-carboxylic amide | 0.098 mmol, 96 mg | CC1=C(C(=CC(=C1)NC)C)/C=C/S(=O)(=O)N1CCC(CC1)(C(=O)N)NC(CCCCCCCCC1(COC1)C)=O | C30H48N4O5S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 8-[(E)-2-(2,6-Dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-2-[8-(3-methyl-oxetan-3-yl)-octyl]-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 54.8 mg, 100% | CC1=C(C(=CC(=C1)NC)C)/C=C/S(=O)(=O)N1CCC2(C(NC(=N2)CCCCCCCCC2(COC2)C)=O)CC1 | C30H46N4O4S
